US05814631
Synthesis of 3-benzenesulfonyl-2,4(1H,3H)-quinazolinedione (Compound 30)
3.00 g (16.4 mmol) of benzenesulfonylisocyanate and 2.04 g (14.9 mmol) of 2-aminobenzoic acid were treated in the same way as in Example 1 to obtain 3.26 g of the above-identified compound (yield 72.4%). Properties: colorless crystal, Melting point: 211°-213° C., PMR (δppm, DMSO-d6): 7.13 (1H,d), 7.20 (1H,t), 7.61-7.70 (3 H,m), 7.78 (1H,t), 7.87 (1H,d), 8.17 (2H,d), 11.51 (1H,br).

reactant | benzenesulfonylisocyanate | 16.4 mmol, 3.00 g | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
reactant | 2-aminobenzoic acid | 14.9 mmol, 2.04 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
product | 3-benzenesulfonyl-2,4(1H,3H)-quinazolinedione | 3.26 g, yield 72.4% | C1(=CC=CC=C1)S(=O)(=O)N1C(NC2=CC=CC=C2C1=O)=O | C14H10N2O4S
